US07528147B2
0.064 g of pyridine and 0.092 g of methanesulfonic anhydride are added to a solution of 0.13 g of [2-(5,6-dimethoxy-1-methyl-1H-indol-3-yl)-1-(toluene-4-sulfonyl)-1H-pyrrolo[2,3-b]pyrid-4-yl]methanol in 5 cm3 of dichloromethane, at a temperature in the region of −10° C. The reaction medium is stirred at this same temperature for one hour, and then at room temperature for 24 hours. Ice and 15 cm3 of dichloromethane are added. After separation of the phases by settling, the organic phase is dried over magnesium sulfate, filtered and then concentrated under reduced pressure. After purification by flash-pack chromatography (SiO2, dichloromethane/methanol 98/02 by volume as eluent), 0.044 g of methanesulfonic acid 2-(5,6-dimethoxy-1-methyl-1H-indol-3-yl)-1-(toluene-4-sulfonyl)-1H-pyrrolo[2,3-b]pyrid-4-ylmethyl ester is obtained, the characteristics of which are as follows:

reactant | pyridine | 0.064 g | N1=CC=CC=C1 | C5H5N
reactant | methanesulfonic anhydride | 0.092 g | CS(=O)(=O)OS(=O)(=O)C | C2H6O5S2
reactant | [2-(5,6-dimethoxy-1-methyl-1H-indol-3-yl)-1-(toluene-4-sulfonyl)-1H-pyrrolo[2,3-b]pyrid-4-yl]methanol | 0.13 g | COC=1C=C2C(=CN(C2=CC1OC)C)C1=CC=2C(=NC=CC2CO)N1S(=O)(=O)C1=CC=C(C=C1)C | C26H25N3O5S
solvent | dichloromethane | 5 cm3 | ClCCl | CH2Cl2
solvent | dichloromethane | 15 cm3 | ClCCl | CH2Cl2
product | methanesulfonic acid 2-(5,6-dimethoxy-1-methyl-1H-indol-3-yl)-1-(toluene-4-sulfonyl)-1H-pyrrolo[2,3-b]pyrid-4-ylmethyl ester | 0.044 g | COC=1C=C2C(=CN(C2=CC1OC)C)C1=CC=2C(=NC=CC2COS(=O)(=O)C)N1S(=O)(=O)C1=CC=C(C=C1)C | C27H27N3O7S2
